US09388189B2
(S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.17 mmol) was treated with (3-cyano-5-methoxyphenyl)boronic acid (74 mg, 0.42 mmol), sodium carbonate (45 mg, 0.42 mmols), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (41 mg, 0.05 mmol) and 4 ml 1,2-dimethoxyethane and 1 ml water as a solvents according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 50% hexane-ethyl acetate) to obtain 54 mg (43% yield, 87% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 100 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | (3-cyano-5-methoxyphenyl)boronic acid | 0.42 mmol, 74 mg | C(#N)C=1C=C(C=C(C1)OC)B(O)O | C8H8BNO3
reactant | sodium carbonate | 0.42 mmols, 45 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
product | (S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile | 43% yield | COC=1C=C(C#N)C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38N8O3Si
